US07713996B2
A solution of 2,3-dihydro-1H-indole-6-carboxylic acid methyl ester (1.34 g, 7.6 mmol) in dichloromethane (66 ml) and pyridine (1.6 ml) was treated with 5-chloro-2-methoxy-benzenesulfonyl chloride (1.83 g, 7.6 mmol, 1 equiv.). The mixture was stirred at room temperature overnight, then diluted with dichloromethane and washed with water. The organic phase was dried with Na2SO4 and evaporated. The residue was purified by flash chromatography (heptane/ethyl acetate gradient), yielding 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester, 2.2 g (77% yield). MS (ISP): m/e=382.1 (M+H+.), δH (300 MHz; CDCl3) 7.99 (1H, d), 7.93 (1H, s), 7.61 (1H, d), 7.37 (1H, dd), 7.11 (1H, d), 6.77 (1H, d), 4.04 (2H, t), 3.83 (3H, s), 3.56 (3H, s), 3.02 (2H, t).

reactant | 2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | 7.6 mmol, 1.34 g | COC(=O)C1=CC=C2CCNC2=C1 | C10H11NO2
reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | 7.6 mmol, 1.83 g, 1 equiv. | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
solvent | dichloromethane | 66 ml | ClCCl | CH2Cl2
solvent | pyridine | 1.6 ml | N1=CC=CC=C1 | C5H5N
product | 1-(5-chloro-2-methoxy-benzenesulfonyl)-2,3-dihydro-1H-indole-6-carboxylic acid methyl ester | 77% yield | COC(=O)C1=CC=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC | C17H16ClNO5S
